US06977264B2
Step (b) N-((1R)-1-[(4-Chlorophenyl)methyl]-2-oxo-2-{4-[2-(2-oxo(4-imidazolinyl))phenyl]-piperidyl}ethyl)azetidin-3-ylcarboxamide
The title compound was prepared according to the procedure described in Example 16 (Step b) using tert-butyl 3-[N-((1R)-1-[(4-chlorophenyl)methyl]-2-oxo-2-(4-[2-(2-oxo(4-imidazolinyl))phenyl]piperidyl)ethyl}carbamoyl]azetidinecarboxylate (Step a) (0.2 g, 0.33 mmol) and satd anhydrous HCl in EtOAc (20 mL). Purification by reverse phase preparative HPLC [Phenomenex; 5 μm 250×21.2 mm, 5% to 95% CH3CN (0.1% TFA) in H2O (0.1% TFA) over 30 min, then 100% CH3CN (0.1% TFA) for 2 min] provided the title compound (TFA salt) as a white solid (0.02 g) MS (ESI, pos. ion) m/z: 508 (M+1) Calc'd for C27H30ClN5O3: 507.20.

reactant | tert-butyl 3-[N-((1R)-1-[(4-chlorophenyl)methyl]-2-oxo-2-(4-[2-(2-oxo(4-imidazolinyl))phenyl]piperidyl)ethyl}carbamoyl]azetidinecarboxylate | ClC1=CC=C(C=C1)C[C@H](C(N1CCC(CC1)C1=C(C=CC=C1)N1C(NC=C1)=O)=O)NC(=O)C1CN(C1)C(=O)OC(C)(C)C | C32H38ClN5O5
reactant | HCl | Cl | ClH
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | N-((1R)-1-[(4-Chlorophenyl)methyl]-2-oxo-2-{4-[2-(2-oxo(4-imidazolinyl))phenyl]-piperidyl}ethyl)azetidin-3-ylcarboxamide | 0.02 g | ClC1=CC=C(C=C1)C[C@H](C(N1CCC(CC1)C1=C(C=CC=C1)N1C(NC=C1)=O)=O)NC(=O)C1CNC1 | C27H30ClN5O3
